US06455521B1
In the same manner as in Example 80 and using 8-fluoro-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one, phosphorus oxychloride, N,N-dimethylaniline and 1-methylpiperazine, 8-fluoro-12-(4-methylpiperazin-1-yl)-[1]benzothieno[2,3-b][1,5]benzoxazepine is obtained.

reactant | 8-fluoro-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one | FC1=CC2=C(NC(C3=C(O2)SC2=C3C=CC=C2)=O)C=C1 | C15H8FNO2S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 8-fluoro-12-(4-methylpiperazin-1-yl)-[1]benzothieno[2,3-b][1,5]benzoxazepine | FC1=CC2=C(N=C(C3=C(O2)SC2=C3C=CC=C2)N2CCN(CC2)C)C=C1 | C20H18FN3OS
